US08710245B2
(a) Synthesis of 4-(chloromethyl)-6,7-dihydro-4H-thieno[3,2-c]pyran
The title compound was synthesized from 2-(thiophen-2-yl)ethanol and chloroacetaldehyde diethyl acetal according to General Procedure A.

reactant | 2-(thiophen-2-yl)ethanol | S1C(=CC=C1)CCO | C6H8OS
reactant | chloroacetaldehyde diethyl acetal | C(C)OC(CCl)OCC | C6H13ClO2
product | 4-(chloromethyl)-6,7-dihydro-4H-thieno[3,2-c]pyran | ClCC1OCCC2=C1C=CS2 | C8H9ClOS
